US07714126B2
A solution of 2-acetyl-4-cyclohexyl-but-2-enoic acid ethyl ester (1.79 g, 7.52 mmol) in 40 mL CCl4 was added to a slurry of NBS (1.338 g, 7.52 mmol) in 40 mL CCl4. The mixture was refluxed under argon for 12 hours, stirred at room temperature for 68 hours and then cooled in an ice bath. The precipitated solid was filtered off and the filtrate was evaporated to an oil that was purified by short-path distillation (165-185° C., 1 mm Hg) yielding 5-cyclohexyl-2-methyl-furan-3-carboxylic acid ethyl ester (1.36 g, 77%).

reactant | 2-acetyl-4-cyclohexyl-but-2-enoic acid ethyl ester | 7.52 mmol, 1.79 g | C(C)OC(C(=CCC1CCCCC1)C(C)=O)=O | C14H22O3
reactant | NBS | 7.52 mmol, 1.338 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-cyclohexyl-2-methyl-furan-3-carboxylic acid ethyl ester | 1.36 g, 77% | C(C)OC(=O)C1=C(OC(=C1)C1CCCCC1)C | C14H20O3
